US06599902B2
DAST (1.2 mL, 9 mmol) was added to a solution of (R)-2-(4-hydroxy-piperidine-1-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (2.6 g, 8.7 mmol) in DCM at −78° C. The mixture was stirred at rt for 20 hours. The reaction was cooled to 0° C., quenched with sodium bicarbonate and extracted with DCM. The organic layer was concentrated and purified on a silica gel column to give 1.5 g of (R)-2-(4-fluoro-piperidine-1-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | DAST | 9 mmol, 1.2 mL | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | (R)-2-(4-hydroxy-piperidine-1-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 8.7 mmol, 2.6 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(=O)N1CCC(CC1)O | C15H26N2O4
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-2-(4-fluoro-piperidine-1-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.5 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(=O)N1CCC(CC1)F | C15H25FN2O3
